US07728030B2
O-4-bromo-2-methoxyphenyl dimethylcarbamothioate (308h)
A mixture of 4-bromoguaiacol (2.05 g, 10.1 mmol) and 1,4-diazabicyclo(2.2.2)octane (1.42 g, 12.6 mmol) in NMP (24 mL) was heated at 50° C. to give a dark-yellow solution. A solution of dimethylthiocarbamoyl chloride (1.37 g, 11.1 mmol) in NMP (2 ml) was added dropwise to the previous solution over 1-2 min. Some precipitated has formed during the addition. The mixture was stirred at 50° C. for 3 h, and then water (25 ml) was added over 5 min at 50° C. The mixture was stirred overnight at r.t., and the precipitate was isolated by filtration, washed twice with water, and dried in vacuo at 50° C. to yield a pale creamed-coloured crystalline solid, 2.11 g (72%).

reactant | 4-bromoguaiacol | 10.1 mmol, 2.05 g | BrC=1C=C(C(=CC1)OC)O | C7H7BrO2
reactant | 1,4-diazabicyclo(2.2.2)octane | 12.6 mmol, 1.42 g | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylthiocarbamoyl chloride | 11.1 mmol, 1.37 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | water | 25 ml | O | H2O
reactant | NMP | 24 mL | CN1CCCC1=O | C5H9NO
reactant | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | O-4-bromo-2-methoxyphenyl dimethylcarbamothioate | CN(C(OC1=C(C=C(C=C1)Br)OC)=S)C | C10H12BrNO2S
